US05516774
6.7-Dihydro-5-(4-nitrobenzoyl)-5H-pyrrolo[1,2-a][1.5]benzodiazepine
To a solution of 10 mmol of 6,7-dihydro-5H-pyrrolo[1,2-a][1,5]benzodiazepine in 30 ml of methylene chloride under argon is added 15 mmol of triethylamine followed by ice bath cooling. A solution of 11 mmol of 4-nitrobenzoyl chloride in 10 ml of methylene chloride is added dropwise. Following complete addition, the ice bath is removed and the reaction mixture stirred at room temperature for 2 hours. The volatiles are removed in vacuo to give a residue which is dissolved in ethyl acetate. The solution is washed with water, 2N citric acid, NaHCO3, and brine. The reaction mixture is dried with Na2SO4, filtered and evaporated in vacuo to give a solid which is purified by flash chromatography on silica gel to give the desired product as a solid.

reactant | 6,7-dihydro-5H-pyrrolo[1,2-a][1,5]benzodiazepine | 10 mmol | C1=CC=CC=2NCCC=3N(C21)C=CC3 | C12H12N2
reactant | triethylamine | 15 mmol | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 11 mmol | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6.7-Dihydro-5-(4-nitrobenzoyl)-5H-pyrrolo[1,2-a][1.5]benzodiazepine | [N+](=O)([O-])C1=CC=C(C(=O)N2CCC=3N(C4=C2C=CC=C4)C=CC3)C=C1 | C19H15N3O3
